US06448242B1
Preparation of 1,3-bis[1-[4-methyl-3-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]-2-(dimethylamino)propane hydrochloride
Concentrated hydrochloric acid (0.020 ml; 0.24 mmol) was added to a solution of 1,3-bis[1-[4-methyl-3-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]-2-(dimethylamino)propane (53 mg; 0.064 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. A process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice to obtain the title compound as a pale yellow amorphous powder.

reactant | hydrochloric acid | 0.24 mmol, 0.020 ml | Cl | ClH
reactant | 1,3-bis[1-[4-methyl-3-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]-2-(dimethylamino)propane | 0.064 mmol, 53 mg | CC1=C(C=C(C(=O)N2CCC(CC2)CC(CC2CCN(CC2)C(C2=CC(=C(C=C2)C)C2=CC(=C(C(=C2)OC)OC)OC)=O)N(C)C)C=C1)C1=CC(=C(C(=C1)OC)OC)OC | C49H63N3O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,3-bis[1-[4-methyl-3-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]-2-(dimethylamino)propane hydrochloride | Cl.CC1=C(C=C(C(=O)N2CCC(CC2)CC(CC2CCN(CC2)C(C2=CC(=C(C=C2)C)C2=CC(=C(C(=C2)OC)OC)OC)=O)N(C)C)C=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C49H63N3O8.ClH/c1-31-11-13-35(25-40(31)37-27-42(55-5)46(59-9)43(28-37)56-6)48(53)51-19-15-33(16-20-51)23-39(50(3)4)24-34-17-21-52(22-18-34)49(54)36-14-12-32(2)41(26-36)38-29-44(57-7)47(60-10)45(30-38)58-8;/h11-14,25-30,33-34,39H,15-24H2,1-10H3;1H
